US08211908B2
To a suspension of 0.23 g of 7-methoxy-1,5-naphthyridin-2(1H)-one in 3 mL of N,N-dimethylformamide, 79 mg of 60% sodium hydride was added at room temperature, the temperature was increased to 50° C., and the mixture was stirred for 15 minutes. Thereto was added 0.41 mL of 2-bromomethyl-1,3-dioxolan, the temperature of the reaction mixture was increased to 90 to 100° C., and the reaction mixture was stirred for 3 hours. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added thereto. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with hexane:ethyl acetate=100:0 to 33:67, then gradient elution with chloroform:methanol=100:0 to 90:10 to obtain 0.11 g of 1-(1,3-dioxolan-2-ylmethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one as a light brown solid.

reactant | 7-methoxy-1,5-naphthyridin-2(1H)-one | 0.23 g | COC1=CN=C2C=CC(NC2=C1)=O | C9H8N2O2
reactant | sodium hydride | 79 mg | [H-].[Na+]
reactant | 2-bromomethyl-1,3-dioxolan | 0.41 mL | BrCC1OCCO1 | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(1,3-dioxolan-2-ylmethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 0.11 g | O1C(OCC1)CN1C(C=CC2=NC=C(C=C12)OC)=O | C13H14N2O4
